US07582803B2
5-(4-Hydroxy-benzylidene)-2,2-dimethyl-[1,3]dioxane-4,6-dione (M1.1).
Condensation with Meldrum's acid was carried out according to the method of Bigi et. al. (2001) Tetrahedron Lett. 42:5203-5205. A 2 L pear-shaped flask was charged with 4-hydroxybenzaldehyde (50 g, 409 mmol) and water (400 mL). The flask was placed in a water bath at 75° C., and Meldrum's acid (62 g, 430 mmol) was added as a slurry in 400 mL of water. The reaction mixture was agitated for 2 hours and cooled in an ice bath for 2 hours. The product was collected by filtration and rinsed with cold water. After drying thoroughly, adduct M1.1 was obtained as a fine yellow powder. MS ESI (pos.) m/e: 519.0 (2M+Na). 1H NMR (500 MHz) (DMSO-d6) δ 9.75 (br s, 1H); 8.27 (s, 1H); 8.24 (d, 2H, J=10 Hz); 6.98 (d, 2H, J=10 Hz);.1.76 (s, 6H).

reactant | Meldrum's acid | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | 4-hydroxybenzaldehyde | 409 mmol, 50 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | Meldrum's acid | 430 mmol, 62 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
solvent | water | 400 mL | O | H2O
solvent | water | 400 mL | O | H2O
product | 5-(4-Hydroxy-benzylidene)-2,2-dimethyl-[1,3]dioxane-4,6-dione | OC1=CC=C(C=C2C(OC(OC2=O)(C)C)=O)C=C1 | C13H12O5
